* chip_top_golden.spice -- PLL die-level LVS golden.
* TOP: netlisted from team_src/xschem/chip_top/chip_top.sch (never typed).
* BLOCKS: the five SIGNED-OFF block goldens, inlined verbatim below.
* GND is the chip-wide common (internal net, no pad). vco ISS tied to GND.
*
.subckt chip_top VSSA VDDA IBIAS ISS VTUNE CP_OUT I_P I_N Q_P Q_N VDDD REF_IN
*.iopin VSSA
*.ipin VDDA
*.ipin IBIAS
*.ipin ISS
*.ipin VTUNE
*.opin CP_OUT
*.opin I_P
*.opin I_N
*.opin Q_P
*.opin Q_N
*.ipin VDDD
*.ipin REF_IN
x_pfd_lib REF_IN I_P UP DOWN VDDD VSSA PFD_lib
x_cp_v1 UP DOWN CP_OUT VDDA VSSA VGP VGN CP_v1
x_ibias_gen_v1 IBIAS_C VGP VGN IB_DIV2 VDDA VSSA ibias_gen_v1
x_div2_quad_v1 VCO_OUTP VCO_OUTN IB_DIV2 I_P I_N Q_P Q_N VDDD VSSA DIV2_QUAD_v1
x_vco_v1 VDDA VCO_OUTP VCO_OUTN VSSA VTUNE ISS vco_v1
XR_ESD_IBIAS IBIAS_C IBIAS VSSA ppolyf_u r_width=16e-6 r_length=4e-6
D_ESD_IBIAS_P IBIAS_C VDDA diode_pd2nw_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_IBIAS_N VSSA IBIAS_C diode_nd2ps_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_ISS_P ISS VDDA diode_pd2nw_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_ISS_N VSSA ISS diode_nd2ps_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends

* ---- inlined: PFD_lib_golden.spice ----
* PFD_lib -- LVS golden netlist for the library-cell PFD (Aug-14 layout)
* Topology = our PFD_v1 (2 reset-DFFs + coincidence NAND), leaves = gf180 std cells.
* Reset path has 2x inv_1 delay (RSTN) to restore min pulse to 0.50 ns (verification 2.2).
* Layout must LVS uniquely against this subckt.
.subckt PFD_lib REF FB UP DOWN VDD VSS
* tie-high cells for D (antenna/ESD-correct); LibreLane ties each D separately -> 2x tieh
*   tieh ports: Z VDD VNW VPW VSS
XTIE1 DHI1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__tieh
XTIE2 DHI2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__tieh
* DFFs: D=DHIx (tied high), clocked by REF/FB, async active-low reset RN=RSTN
*   dffrnq_1 ports: D RN CLK Q VDD VNW VPW VSS  (VNW=VDD, VPW=VSS)
X1 DHI1 RSTN REF  UP   VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X2 DHI2 RSTN FB   DOWN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
* coincidence: nand2_1 ports A1 A2 ZN VDD VNW VPW VSS
XN UP DOWN NANDO VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
* reset delay: 2x inv_1 (ports I ZN VDD VNW VPW VSS), polarity preserved
XI1 NANDO NDLY VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XI2 NDLY  RSTN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
.ends PFD_lib

* ---- inlined: CP_v1_golden.spice ----
* CP_v1 -- LVS golden netlist for the charge-pump layout (Aug-14, full-custom analog)
* 8 transistors. PARTITION DECIDED (Greg, 2026-08-05): TWO CURRENT PORTS into the
* block -- VGP feeds diode ref M_PREF, VGN feeds diode ref M_NREF -- both driven by
* the chip-level IBIAS generator (block ports, NOT pads; pin count unaffected). The
* schematic's ideal I_CP=50uA sources (I_PREF/I_NREF) are NOT laid out; the IBIAS
* generator sinks I_CP from VGP and sources I_CP into VGN externally. Devices are
* UNCHANGED from the characterized CP_v1; only the port list differs (VGP/VGN exposed).
.subckt CP_v1 UP DOWN CP_OUT VDD VSS VGP VGN
* --- PMOS current mirror (sources I_CP when UP) --- MATCH M_PREF <-> M_PSRC
XM_PREF VGP  VGP  VDD VDD pfet_03v3 L=2u   W=50u  nf=1  m=1
XM_PSRC PMID VGP  VDD VDD pfet_03v3 L=2u   W=50u  nf=1  m=1
XM_PSW  CP_OUT UP_B PMID VDD pfet_03v3 L=0.3u W=50u nf=1 m=1
* --- NMOS current mirror (sinks I_CP when DOWN) --- MATCH M_NREF <-> M_NSNK
XM_NREF VGN  VGN  VSS VSS nfet_03v3 L=2u   W=10u  nf=1  m=1
XM_NSNK NMID VGN  VSS VSS nfet_03v3 L=2u   W=10u  nf=1  m=1
XM_NSW  CP_OUT DOWN NMID VSS nfet_03v3 L=0.3u W=10u nf=1 m=1
* --- UP inverter (UP -> UP_B for the pmos switch) ---
XM_INVP UP_B UP VDD VDD pfet_03v3 L=0.3u W=2u nf=1 m=1
XM_INVN UP_B UP VSS VSS nfet_03v3 L=0.3u W=1u nf=1 m=1
.ends CP_v1

* ---- inlined: ibias_gen_v1_golden.spice ----
* ibias_gen_v1 -- LVS golden, netlisted from team_src/xschem/ibias_gen_v1.sch (2026-08-14).
* Wide-swing cascode bias generator. NMOS mirror gate=NB, cascode gate=IBIAS (L=1u);
* PMOS mirror gate=PB, cascode gate=PA/VBCPD (L=1u). Currents scale by unit count m
* (unit nfet W=4u, unit pfet W=16u). XCDEC is the Vb_p(=PB) decap. XMN* legs feed the
* PFD/CP (VGP,VGN) and the DIV2 replica (IB_DIV2). Ports match the schematic .subckt.
.subckt ibias_gen_v1 IBIAS VGP VGN IB_DIV2 VDD VSS
XMN0   NB     NB     VSS VSS nfet_03v3 L=2u W=4u  nf=1 m=24
XMNC0  IBIAS  IBIAS  NB  VSS nfet_03v3 L=1u W=4u  nf=1 m=24
XMN1   n1     NB     VSS VSS nfet_03v3 L=2u W=4u  nf=1 m=5
XMNC1  VGP    IBIAS  n1  VSS nfet_03v3 L=1u W=4u  nf=1 m=5
XMN2   n2     NB     VSS VSS nfet_03v3 L=2u W=4u  nf=1 m=24
XMNC2  PA     IBIAS  n2  VSS nfet_03v3 L=1u W=4u  nf=1 m=24
XMNB   VBCPD  NB     VSS VSS nfet_03v3 L=2u W=4u  nf=1 m=2
XMP0   PB     PB     VDD VDD pfet_03v3 L=2u W=16u nf=1 m=24
XMP0c  PA     PA     PB  VDD pfet_03v3 L=1u W=16u nf=1 m=24
XMP1   p1     PB     VDD VDD pfet_03v3 L=2u W=16u nf=1 m=5
XMP1c  VGN    PA     p1  VDD pfet_03v3 L=1u W=16u nf=1 m=5
XMP2   p2     PB     VDD VDD pfet_03v3 L=2u W=16u nf=1 m=24
XMP2c  IB_DIV2 VBCPD p2  VDD pfet_03v3 L=1u W=16u nf=1 m=24
XMPB   pb2    pb2    VDD VDD pfet_03v3 L=2u W=16u nf=1 m=2
XMPBc  VBCPD  VBCPD  pb2 VDD pfet_03v3 L=1u W=16u nf=1 m=2
XCDEC  VDD    PB     VDD VDD pfet_03v3 L=2u W=16u nf=1 m=6
* Layout matching device (not in the schematic): the two NMOS end dummies on the
* 24:5 ratio array, tied off (gate->NB, S/D->VSS), netgen-merged to m=4. Added as a
* tied-off instance per the CP_v1/ib_nmos precedent so LVS matches uniquely.
XMDUM  VSS    NB     VSS VSS nfet_03v3 L=2u W=4u  nf=1 m=4
.ends ibias_gen_v1

* ---- inlined: DIV2_QUAD_v1_golden.spice ----
.subckt DIV2_QUAD_v1 CK CKB IBIAS I_P I_N Q_P Q_N VDD VSS
XMA1 OIB OQ nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA2 OI OQB nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA3 OIB OI nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA4 OI OIB nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA5 nTA CK TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA6 nLA CKB TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB1 OQB OIB nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB2 OQ OI nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB3 OQB OQ nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB4 OQ OQB nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB5 nTB CKB TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB6 nLB CK TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XRA1 VDD OIB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRA2 VDD OI VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB1 VDD OQB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB2 VDD OQ VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XM_BREF IBIAS IBIAS VSS VSS nfet_03v3 L=1u W=4u nf=1 m=1
XM_TAILA TAILA IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_TAILB TAILB IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_NT_IP NS_IP IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_IP DN1_IP OIB NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_IP OC_IP OI NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_IP DN1_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_IP OC_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_IP OC_IP G1_IP cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_IP INVO1_IP G1_IP VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_IP INVO1_IP G1_IP VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_IP INVO1_IP G1_IP VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_IP INVO2_IP INVO1_IP VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_IP INVO2_IP INVO1_IP VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_IP INVO3_IP INVO2_IP VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_IP INVO3_IP INVO2_IP VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_IP INVO3_IP I_P VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_IN NS_IN IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_IN DN1_IN OI NS_IN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_IN OC_IN OIB NS_IN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_IN DN1_IN DN1_IN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_IN OC_IN DN1_IN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_IN OC_IN G1_IN cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_IN INVO1_IN G1_IN VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_IN INVO1_IN G1_IN VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_IN INVO1_IN G1_IN VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_IN INVO2_IN INVO1_IN VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_IN INVO2_IN INVO1_IN VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_IN INVO3_IN INVO2_IN VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_IN INVO3_IN INVO2_IN VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_IN INVO3_IN I_N VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_QP NS_QP IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_QP DN1_QP OQB NS_QP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_QP OC_QP OQ NS_QP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_QP DN1_QP DN1_QP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_QP OC_QP DN1_QP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_QP OC_QP G1_QP cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_QP INVO1_QP G1_QP VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_QP INVO1_QP G1_QP VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_QP INVO1_QP G1_QP VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_QP INVO2_QP INVO1_QP VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_QP INVO2_QP INVO1_QP VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_QP INVO3_QP INVO2_QP VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_QP INVO3_QP INVO2_QP VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_QP INVO3_QP Q_P VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_QN NS_QN IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_QN DN1_QN OQ NS_QN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_QN OC_QN OQB NS_QN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_QN DN1_QN DN1_QN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_QN OC_QN DN1_QN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_QN OC_QN G1_QN cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_QN INVO1_QN G1_QN VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_QN INVO1_QN G1_QN VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_QN INVO1_QN G1_QN VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_QN INVO2_QN INVO1_QN VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_QN INVO2_QN INVO1_QN VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_QN INVO3_QN INVO2_QN VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_QN INVO3_QN INVO2_QN VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_QN INVO3_QN Q_N VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
.ends DIV2_QUAD_v1

* ---- inlined: vco_v1_golden.spice ----
.subckt vco_v1 VDD OUT_p OUT_n GND TUNE ISS
XM1 OUT_p OUT_n ISS GND nfet_03v3 L=0.28u W=40u nf=1
XM4 OUT_n OUT_p ISS GND nfet_03v3 L=0.28u W=40u nf=1
XM2 OUT_p OUT_n VDD VDD pfet_03v3 L=0.28u W=70u nf=1
XM3 OUT_n OUT_p VDD VDD pfet_03v3 L=0.28u W=70u nf=1
XC1 cap_bias OUT_n cap_nmos_03v3_b c_width=5u c_length=5u m=21
XC4 cap_bias OUT_p cap_nmos_03v3_b c_width=5u c_length=5u m=21
X1 OUT_n OUT_p GND vco_inductor_v2
XR2 TUNE cap_bias GND ppolyf_u_1k r_width=1u r_length=15u
.ends

